US08791159B2
3-({(2E)-3-[4-(3-phenylpropoxy)phenyl]-2-butenyl}amino)propanoic acid hydrochloride
To a suspension of β-alanine (433 mg) in methanol (30 ml), sodium hydroxide (204 mg) was added. Then, trimethoxymethane (532 μl) was added to the mixture at 0° C. Further, a solution of (2E)-3-[4-(3-phenylpropoxy)phenyl]but-2-enal (1.43 g) in a mixture of methanol (30 ml) and tetrahydrofuran (10 ml) was added. The reaction mixture was stirred at 0° C. for 30 minutes. To the mixture, sodium borohydride (221 mg) was added at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes. After adding 2 N hydrochloric acid (5.5 ml), the reaction mixture was concentrated. To the residue thus obtained, a mixed solvent of chloroform:methanol:aqueous ammonia=80:10:1 was added, followed by filtration. To the precipitate thus obtained, water was added and the mixture was centrifuged to give a precipitate. The obtained residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia=80:20:4). To a suspension of the purified product in dioxane (100 ml) and water (15 ml), a 4 mol/l hydrogen chloride-dioxane solution (0.9 ml) was added at 0° C. The reaction mixture was concentrated and the residue was washed with diethyl ether and dried to give the title compound (1.16 g) having the following physical properties.

reactant | β-alanine | 433 mg | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 204 mg | [OH-].[Na+]
reactant | trimethoxymethane | 532 μl | COC(OC)OC | C4H10O3
reactant | (2E)-3-[4-(3-phenylpropoxy)phenyl]but-2-enal | 1.43 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)/C(=C/C=O)/C | C19H20O2
reactant | sodium borohydride | 221 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N, 5.5 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-({(2E)-3-[4-(3-phenylpropoxy)phenyl]-2-butenyl}amino)propanoic acid hydrochloride | 1.16 g | Cl.C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)/C(=C/CNCCC(=O)O)/C | InChI=1S/C22H27NO3.ClH/c1-18(13-15-23-16-14-22(24)25)20-9-11-21(12-10-20)26-17-5-8-19-6-3-2-4-7-19;/h2-4,6-7,9-13,23H,5,8,14-17H2,1H3,(H,24,25);1H/b18-13+;
